// Auto-generated shallow EVAS Rust smoke harness for cand_cg_batch_l0_cross_event_latch_ood_split_naming_0001
simulator lang=spectre
global 0

ahdl_include "solution.va"

V_vp (vp 0) vsource type=pwl wave=[0 0.40 20n 0.60 100n 0.60]
V_vn (vn 0) vsource dc=0.45 type=dc

IDUT (vp vn vflag) cg_batch_l0_cross_event_latch_ood_split_naming_0001

tran tran stop=100n maxstep=100p
save vp:3f vn:3f vflag:d
